### PR TITLE
lemmas from MathComp-Analysis' unstable.v

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

three lemmas that have been for a while in MathComp-Analysis' `unstable.v`

##### Minimal TODO list

- [x] added changelog entries with `doc/changelog/make-entry.sh`

- [ ] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: algebra/archimedean.v [hunk 1]
```diff
@@ -856,6 +856,13 @@ Proof. exact: real_ceil_le0. Qed.
 Lemma ceil_floor x : ceil x = floor x + (x \isn't a int_num).
 Proof. exact: real_ceil_floor. Qed.
 
+Lemma abs_ceil_ge x : `|x| <= `|ceil x|.+1%:R.
```
Comment (pi8027) [inline algebra/archimedean.v]: You should first see if `Num.bound x` replaces `(absz (ceil x)).+1` in MCA or not. https://github.com/math-comp/math-comp/pull/1510#issuecomment-3611733949

Comment (pi8027) [reply algebra/archimedean.v]: (They are not the same, but `Num.bound` is likely what you need when you need a sort of "upper bound" of type `nat`.)

Comment (pi8027) [reply algebra/archimedean.v]: I demonstrated in math-comp/analysis#1818 that this lemma is unnecessary, although I didn't use `Num.bound` in the end.

File: algebra/ssrint.v [hunk 2]
```diff
@@ -657,13 +657,17 @@ Lemma intrN n : (- n)%:~R = - n%:~R :> R. Proof. exact: mulrNz. Qed.
 
 Lemma intrD m n : (m + n)%:~R = m%:~R + n%:~R :> R. Proof. exact: mulrzDr. Qed.
 
+Lemma intrD1 m : m%:~R + 1 = (m + 1)%:~R :> R. Proof. by rewrite intrD. Qed.
+
+Lemma intr1D m : 1 + m%:~R = (1 + m)%:~R :> R. Proof. by rewrite intrD. Qed.
```
Comment (pi8027) [inline algebra/ssrint.v]: To be consistent with `intrD` above, the LHS and RHS of these lemmas should be swapped IMO.

File: algebra/archimedean.v (hunk 1 above)
Comment (CohenCyril) [reply algebra/archimedean.v]: @pi8027 it is not because a proof can be shorter by not going through this lemma that it is unnecessary. Users expect to find it, so let's keep it.

Comment (pi8027) [reply algebra/archimedean.v]: @CohenCyril For me, the statement of this lemma looks too specific. For example, the following statement works for any `archiNumDomainType` and also slightly tightens the bound:
```coq
forall x, `|x| <= (ceil `|x|)%:~R
```

**Review by pi8027 — APPROVED** [review]

**Comment by pi8027** [comment]
We can still consider adding `abs_ceil_ge` or its modified version(s), but the discussion can be done in a MathComp meeting and/or another PR/issue.
